US05807882
6,10-dihydroxy-7,12-dioxabenz[a]anthracene
Under an inert atmosphere, 0.1 ml of boron tribromide is added dropwise to 90 mg of 6-hydroxy-10-methoxy-7,12-dioxabenz[a]anthracene in solution in 3 ml of dichloromethane at 0° C. After 4 hours, the mixture is hydrolyzed. The organic phase is dried over magnesium sulfate and concentrated under vacuum. The bis-hydroxylated compound is purified by flash chromatography on silica gel (eluent: petroleum ether/ethyl acetate).

reactant | boron tribromide | 0.1 ml | B(Br)(Br)Br | BBr3
reactant | 6-hydroxy-10-methoxy-7,12-dioxabenz[a]anthracene | 90 mg | OC=1C=C2C(=C3OC4=CC(=CC=C4OC13)OC)C=CC=C2 | C17H12O4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6,10-dihydroxy-7,12-dioxabenz[a]anthracene | OC=1C=C2C(=C3OC4=CC(=CC=C4OC13)O)C=CC=C2 | C16H10O4
